US06472419B1
2-Chloro-6-methoxybenzyl bromide
442 g of 2-chloro-6-methoxytoluene are dissolved in 2420 ml of carbon tetrachloride and, together with 516 g of N-bromosuccinimide, heated at reflux for 2 h while 5.8 g of AIBN are added. The solid is filtered off and washed with a small amount of carbon tetrachloride, the filtrate is concentrated, and the residue which remains is fractionated. 483 g of colorless oil are obtained (b.p. 100° C./1.4 mbar, m.p. 44-47° C.).

reactant | 2-chloro-6-methoxytoluene | 442 g | ClC1=C(C(=CC=C1)OC)C | C8H9ClO
reactant | N-bromosuccinimide | 516 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 2420 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 5.8 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-Chloro-6-methoxybenzyl bromide | 483 g | ClC1=C(CBr)C(=CC=C1)OC | C8H8BrClO
